US04933333
950 mg of (2S,4S)-1-(p-nitrobenzyloxycarbonyl)-2-carbamoyl-4-acetylthiopyrrolidine was dissolved in 95 ml of methanol, and 2.59 ml of a 1N aqueous solution of sodium hydroxide was added thereto at room temperature in an argon stream, followed by stirring at that temperature for 15 minutes. The reaction mixture was neutralized with 2.59 ml of a 1N aqueous solution of hydrochloric acid and distilled off under reduced pressure to remove the methanol. The thus precipitated crystals were filtered and washed with water to obtain (2S,4S)-1-(p-nitrobenzyloxycarbonyl)-2-carbamoyl-4-mercaptopyrrolidine.

reactant | (2S,4S)-1-(p-nitrobenzyloxycarbonyl)-2-carbamoyl-4-acetylthiopyrrolidine | 950 mg | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C)=O)C(N)=O)C=C1 | C15H17N3O6S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 95 ml | CO | CH4O
product | (2S,4S)-1-(p-nitrobenzyloxycarbonyl)-2-carbamoyl-4-mercaptopyrrolidine | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)S)C(N)=O)C=C1 | C13H15N3O5S
